USH0000963
Synthesis of 4-chloro-3-nitrobenzenesulfonyl chloride
1,250 ml of phosphorus oxychloride was added dropwise to a mixture of 1,280 g of potassium 4-chloro-3-nitrobenzenesulfonate, 1,150 ml of acetonitrile, 250 ml of sulfolane, and 30 ml of dimethylacetamide in such a manner that the internal temperature thereof was kept at 60° to 70° C. After being allowed to react at a temperature of 73° C. for 3 hours, the reaction mixture was cooled with water, and 400 ml of water was gradually added to the reaction mixture. The cooled reaction mixture was then added to 5 l of ice water. The resulting crystals were filtered off, washed with water, and then dried. (Yield: 1,060 g (84%); m.p.: 55°-56° C.)

reactant | phosphorus oxychloride | 1,250 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium 4-chloro-3-nitrobenzenesulfonate | 1,280 g | ClC1=C(C=C(C=C1)S(=O)(=O)[O-])[N+](=O)[O-].[K+]
reactant | acetonitrile | 1,150 ml | C(C)#N | C2H3N
reactant | sulfolane | 250 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | water | 400 ml | O | H2O
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | 4-chloro-3-nitrobenzenesulfonyl chloride | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
